US04048191
A solution of 27.4 ml (0.538 mole) of bromine in 150 ml of chloroform is added to a refluxing solution of 152.6 g. (0.538 mole) of ethyl 1,2-dimethyl-5-(p-toluoyl)pyrrole-3-carboxylate in 1500 ml of chloroform containing a few iodine crystals over a period of 45 min. The solution is heated under reflux for 10 min. and is then poured into ice water. The organic layer is separated and washed with sodium bicarbonate solution, sodium bisulfate solution, and brine. It is then dried over sodium sulfate and the solvent is evaporated in vacuo. After recrystallization of the product from methanol, it is extracted in a Soxhlet extractor with about one liter of diethyl ether and then crystallized from the cooled ether to yield ethyl 4-bromo-1,2-dimethyl-5-(p-toluoyl)pyrrole-3-carboxylate; m.p. 122°-125° C.

reactant | bromine | 0.538 mole, 27.4 ml | BrBr | Br2
reactant | ethyl 1,2-dimethyl-5-(p-toluoyl)pyrrole-3-carboxylate | 0.538 mole | CN1C(=C(C=C1C(=O)C1=CC=C(C=C1)C)C(=O)OCC)C | C17H19NO3
reactant | iodine crystals | II | I2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-bromo-1,2-dimethyl-5-(p-toluoyl)pyrrole-3-carboxylate | BrC=1C(=C(N(C1C(=O)C1=CC=C(C=C1)C)C)C)C(=O)OCC | C17H18BrNO3
